US07786108B2
Step 2. Preparation of Methyl 5-bromo-2-[isopropoxycarbonyl-(3-methoxycarbonylpropyl)amino]benzoate
Heat a suspension of methyl 5-bromo-2-isopropoxycarbonylaminobenzoate (10.0 g, 31.6 mmol), methyl 4-bromobutyrate (22.9 g, 126 mmol) and cesium carbonate (41.6 g, 126 mmol) in N,N-dimethylformamide (150 mL) under nitrogen at 80° C. for 24 h. Cool the mixture to room temperature and pour into water (200 mL). Extract with ethyl acetate (3×100 mL) and wash the organic extracts with water (3×100 mL) and brine (100 mL). Dry the organic layer over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure. Chromatograph the residue over silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as a colorless oil (11.8 g, 89%). 1H NMR (CDCl3, 300 MHz) δ 1.05-1.07 (m, 4H), 1.30-1.32 (m, 2H), 1.89-1.94 (m, 2H), 2.38-2.44 (m, 2H), 3.46-3.60 (m, 1H), 3.65 (s, 3H), 3.68-3.79 (m, 1H), 3.86 (s, 3H), 4.85-5.01 (m, 1H), 7.12 (d, J=8.3 Hz, 1H), 7.62 (dd, J=1.7, 8.4 Hz, 1H), 8.07 (brs, 1H); ESI MS m/z 416 [C17H22BrNO6+H]+.

reactant | methyl 5-bromo-2-isopropoxycarbonylaminobenzoate | 31.6 mmol, 10.0 g | BrC=1C=CC(=C(C(=O)OC)C1)NC(=O)OC(C)C | C12H14BrNO4
reactant | methyl 4-bromobutyrate | 126 mmol, 22.9 g | BrCCCC(=O)OC | C5H9BrO2
reactant | cesium carbonate | 126 mmol, 41.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | Methyl 5-bromo-2-[isopropoxycarbonyl-(3-methoxycarbonylpropyl)amino]benzoate | 11.8 g, 89% | BrC=1C=CC(=C(C(=O)OC)C1)N(CCCC(=O)OC)C(=O)OC(C)C | C17H22BrNO6
